US07759369B2
4-Chloro-2-iodophenol
Boron tribromide (1349 g) was added to a solution of 4-chloro-2-iodoanisole (1025 g) in dichloromethane (10.3 L) under nitrogen at such a rate that the temperature remained at 0-5° C. The solution was then warmed to 20° C. and stirred for c. 19 h until the reaction was complete by HPLC. This organic solution was added to water (8.2 L) and the mixture was cooled to 5° C. to 10° C. DCM (770 ml) was added and the resulting biphasic mixture was then stirred at 5° C. for 15 min before being warmed to 22° C. and then finally stirred at 22° C. for 20 min before separating the phases. The separated organic phase was washed with aqueous saturated sodium bicarbonate (3.1 L), water (3.1 L) and then evaporated on a Buchi to give the title compound. (963.6 g)

reactant | Boron tribromide | 1349 g | B(Br)(Br)Br | BBr3
reactant | 4-chloro-2-iodoanisole | 1025 g | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | water | 8.2 L | O | H2O
solvent | dichloromethane | 10.3 L | ClCCl | CH2Cl2
solvent | DCM | 770 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-iodophenol | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
